US06492394B1
To a solution of 2(R)-[(3,4-methylenedioxybenzyl)-(4-methoxy-2,3,6-trimethylbenzenesulfonyl)amino]-3-methylbutyric acid (3.82 g, 8.24 mmol) in dry methylene chloride (20 mL) was added oxalyl chloride (2.2 mL, 24.72 mmol) and a drop of dimethylformamide. The reaction mixture was stirred for 4 h and then concentrated. The residue was dissolved in methylene chloride 20 mL) and N,O-bis-trimethylsilylhydroxylamine (8.8 mL, 41.2 mmol) was added. After 4 h, methanol (1 mL) was added and the stirring was continued for 30 min. Silica gel (10 g) was added and the material was concentrated to dryness. The resultant powder was flash chromatographed on a silica gel column and eluted with 50% ethyl acetate/hexanes to give N-hydroxy-2(R)-[(3,4-methylenedioxybenzyl)-(4-methoxy-2,3,6-trimethylbenzenesulfonyl)amino]-3-methylbutyramide (2.46 g).

reactant | 2(R)-[(3,4-methylenedioxybenzyl)-(4-methoxy-2,3,6-trimethylbenzenesulfonyl)amino]-3-methylbutyric acid | 8.24 mmol, 3.82 g | C1OC=2C=C(CN([C@@H](C(=O)O)C(C)C)S(=O)(=O)C3=C(C(=C(C=C3C)OC)C)C)C=CC2O1 | C23H29NO7S
reactant | oxalyl chloride | 24.72 mmol, 2.2 mL | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | dimethylformamide | CN(C=O)C | C3H7NO
reactant | N,O-bis-trimethylsilylhydroxylamine | 41.2 mmol, 8.8 mL | C[Si](NO[Si](C)(C)C)(C)C | C6H19NOSi2
solvent | methylene chloride | 20 mL | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 20 mL | C(Cl)Cl | CH2Cl2
solvent | methanol | 1 mL | CO | CH4O
product | N-hydroxy-2(R)-[(3,4-methylenedioxybenzyl)-(4-methoxy-2,3,6-trimethylbenzenesulfonyl)amino]-3-methylbutyramide | 2.46 g | ONC([C@@H](C(C)C)N(S(=O)(=O)C1=C(C(=C(C=C1C)OC)C)C)CC1=CC2=C(C=C1)OCO2)=O | C23H30N2O7S
